* Z:\mnt\design.r\spice\examples\3406.asc
V1 IN 0 5
C2 OUT 0 22µ
L1 N001 OUT 4.7µ
XU1 IN 0 N001 IN N002 LTC3406
R1 OUT N002 887K
R2 N002 0 280K
Rload OUT 0 10
.tran 500u startup
.lib LTC3406.sub
.backanno
.end
